US04032647
A mixture of magnesium methyl carbonate and dimethylformamide (300 g of a 2.0mM/g solution) is heated in a 120° C. oil bath with stirring under carbon dioxide flushing for 1/2 hour. To this mixture is added 33.8 g (0.100 mole) of 5-(tetradecyloxy)-2-thienyl methyl ketone, and the oil bath temperature is raised to 130° C. to 150° C. Dry nitrogen is flushed through the mixture for 5 hours. The mixture is allowed to cool at room temperature under carbon dioxide flushing after which it is poured slowly into 3 liters of concentrated HCl-ice (1:1) with vigorous stirring. When the evolution of gas is complete, the precipitate is collected and washed with cold water, then dried to give 5-tetradecyloxythen-2-oylacetic acid.

reactant | magnesium methyl carbonate | C(OC)([O-])=O.[Mg+2].COC([O-])=O
reactant | 5-(tetradecyloxy)-2-thienyl methyl ketone | 0.100 mole, 33.8 g | CC(=O)C=1SC(=CC1)OCCCCCCCCCCCCCC | C20H34O2S
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-tetradecyloxythen-2-oylacetic acid | C(CCCCCCCCCCCCC)OC1=CC=C(C(=O)CC(=O)O)S1 | C21H34O4S
